US05198014
To a stirred, slightly warmed solution of 1.4 grams (0.003 mole) of ethyl 2-chloro-3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]propionate in 25 mL of N,N-dimethylformamide was added in one portion 0.1 gram (0.004 mole) of sodium hydride. Upon completion of the addition the reaction mixture was warmed to about 60° C., where it was stirred for 1.75 hours. The reaction mixture was then allowed to cool to ambient temperature, where it was stirred for about 18 hours. The reaction mixture was again warmed to about 60° C., where it was stirred for two hours. The reaction mixture was cooled and concentrated under reduced pressure. The residue remaining was stirred with water for about 40 minutes, giving a solid that was collected by filtration. The solid was recrystallized from ethanol and water, yielding 0.6 gram of ethyl 3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]acrylate, m.p. 131°-134° C. The nmr spectrum was consistent with the proposed structure.

reactant | ethyl 2-chloro-3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]propionate | 0.003 mole, 1.4 grams | ClC(C(=O)OCC)CC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C15H11Cl4N3O2
reactant | sodium hydride | 0.004 mole, 0.1 gram | [H-].[Na+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | ethyl 3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]acrylate | 0.6 gram | C(#N)C=1C=NN(C1C=CC(=O)OCC)C1=C(C(=C(C=C1)Cl)Cl)Cl | C15H10Cl3N3O2
